US04082843
3-(2-chloro-3-hydroxybenzoyl)propionic acid was cyclised with hydrazine hydrate in a similar manner to that described in Example 3(i) to give 6-(2-chloro-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone.

reactant | 3-(2-chloro-3-hydroxybenzoyl)propionic acid | ClC1=C(C(=O)CCC(=O)O)C=CC=C1O | C10H9ClO4
reactant | hydrazine hydrate | O.NN
product | 6-(2-chloro-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | ClC1=C(C=CC=C1O)C=1CCC(NN1)=O | C10H9ClN2O2
